US07645753B2
4-(6-Chloro-benzothiazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester
A mixture of 2,6-dichloro-benzothiazole (1.83 g, 8.97 mmol, 1.0 equiv) and ethyl 4-amino-1-piperidine carboxylate (3.09 g, 17.93 mmol, 2.0 equiv) in anhydrous THF (20 mL) was heated to reflux for 12 h. Purification with column chromatography on silica eluting with ethyl acetate/hexane (3:1) yielded 2.5 g (76%) of the title compound. 1H NMR (400 MHz, DMSO): δ 1.18 (t, J=7.2 Hz, 3H), 1.33 (br m, 2H), 1.97 (br d, 2H), 3.01 (br s, 2H), 3.90 (br d, 3H), 4.04 (q, J=7.2 Hz, 2H), 7.21 (m, 1H), 7.36 (d, J=8.4 Hz, 1H), 7.78 (s, 1H), 8.16 (d, J=7.2 Hz, 1H). MS (ISP): 340.4 [M+H]+.

reactant | 2,6-dichloro-benzothiazole | 8.97 mmol, 1.83 g, 1.0 equiv | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | ethyl 4-amino-1-piperidine carboxylate | 17.93 mmol, 3.09 g, 2.0 equiv | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(6-Chloro-benzothiazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 2.5 g, 76% | C(C)OC(=O)N1CCC(CC1)NC=1SC2=C(N1)C=CC(=C2)Cl | C15H18ClN3O2S
